US09085534B2
Preparation 104A: 6-{[6-(trifluoromethyl)pyridin-2-yl]oxy}-1,2,3,4-tetrahydronaphthalen-1-one
To a solution of 6-hydroxy-3,4-dihydro-1(2H)-naphthalenone (5.0 g, 30.8 mmol) and 2-chloro-6-(trifluoromethyl)pyridine (5.87 g, 32.3 mmol) in ACN (100 mL) was added potassium carbonate (6.39 g, 46.2 mmol), and the reaction was heated at 120° C. in a sealed vessel overnight. The reaction was cooled, diluted with water (100 mL), and extracted with EtOAc (100 mL×3). Organics were dried (Na2SO4), and concentrated. Purification by silica gel chromatography (10-80% EtOAc/hexanes) gave 5.8 g (61%) of the title compound as a yellow oil. 1H NMR (400 MHz, CDCl3): δ 2.13-2.20 (2H, m), 2.67 (2H, t, J=6.2 Hz), 2.97 (2H, t, J=6.0 Hz), 7.07-7.14 (2H, m), 7.45 (1H, d, J=7.4 Hz), 7.89 (1H, t, J=8.0 Hz), 8.09 (1H, d, J=8.3 Hz). [M+H] calc'd for C16H12F3NO2, 308; found 308.

reactant | 6-hydroxy-3,4-dihydro-1(2H)-naphthalenone | 30.8 mmol, 5.0 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | 2-chloro-6-(trifluoromethyl)pyridine | 32.3 mmol, 5.87 g | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | potassium carbonate | 46.2 mmol, 6.39 g | C([O-])([O-])=O.[K+].[K+]
solvent | ACN | 100 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | 6-{[6-(trifluoromethyl)pyridin-2-yl]oxy}-1,2,3,4-tetrahydronaphthalen-1-one | 5.8 g, 61% | FC(C1=CC=CC(=N1)OC=1C=C2CCCC(C2=CC1)=O)(F)F | C16H12F3NO2
